US05998433
b) Synthesis of N,N-dimethyl-[6-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.181 g (0.543 mmol) of 6-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 20 ml of acetic acid, 59 mg (0.65 mmol) of 50% aqueous dimethylamine and 53 mg (0.65 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 6-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.543 mmol, 0.181 g | C1(=CC=CC=C1)CCCCCS(=O)(=O)N1CC2=C(CC1)C=CO2 | C18H23NO3S
reactant | dimethylamine | 0.65 mmol, 59 mg | CNC | C2H7N
reactant | formaldehyde | 0.65 mmol, 53 mg | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[6-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CC2)S(=O)(=O)CCCCCC2=CC=CC=C2)O1 | C21H30N2O3S
